US04990671
A 2 liter Parr bomb was charged with 23.50 g (0.1 mole) 2,6-di-tert-butyl-4-nitrosophenol, 1.0 g of 5% Pd on C catalyst and 600 ml toluene. After purging the assembled bomb with nitrogen, it was pressurized to 50 psi with hydrogen. The mixture was stirred vigorously and uptake of hydrogen was noted. The hydrogenation step producing 2,6-di-tert-butyl-4-aminophenol was completed within 15 minutes. A temperature rise from 23° C. to 25° C. was observed during the hydrogenation. The mixture was allowed to stir under hydrogen atmosphere for a total of 1 hour.

reactant | 2,6-di-tert-butyl-4-nitrosophenol | 0.1 mole, 23.50 g | C(C)(C)(C)C1=C(C(=CC(=C1)N=O)C(C)(C)C)O | C14H21NO2
catalyst | Pd | 1.0 g | [Pd] | Pd
solvent | toluene | 600 ml | C1(=CC=CC=C1)C | C7H8
product | 2,6-di-tert-butyl-4-aminophenol | C(C)(C)(C)C1=C(C(=CC(=C1)N)C(C)(C)C)O | C14H23NO
